US07842685B2
To 3-amino-6-(1-phenylcyclopropyl)pyridine-2(1H)-thione (106 mg, 0.437 mmol) was added 2-(tert-butoxycarbonyl)isoindoline-5-carboxylic acid (115 mg, 0.437 mmol), 1H-benzo[d][1,2,3]triazol-1-ol hydrate (67.0 mg, 0.437 mmol), N1-((ethylimino)methylene)-N3,N3-dimethylpropane-1,3-diamine hydrochloride (84 mg, 0.437 mmol), and DMF (437 μL) before it was stirred at ambient T for 16 h. The reaction mixture was diluted with methanol before it was passed through a cartridge of cation exchange resinto give tert-butyl 5-(6-(1-phenylcyclopropyl)-2-thioxo-1,2-dihydropyridin-3-ylcarbamoyl)isoindoline-2-carboxylate after concentration. MS (ESI) m/z: Calculated: 487.2; Observed: 488.4 (M++H).

reactant | 3-amino-6-(1-phenylcyclopropyl)pyridine-2(1H)-thione | 0.437 mmol, 106 mg | NC=1C(NC(=CC1)C1(CC1)C1=CC=CC=C1)=S | C14H14N2S
reactant | 2-(tert-butoxycarbonyl)isoindoline-5-carboxylic acid | 0.437 mmol, 115 mg | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2C1)C(=O)O | C14H17NO4
reactant | 1H-benzo[d][1,2,3]triazol-1-ol hydrate | 0.437 mmol, 67.0 mg | O.N1(N=NC2=C1C=CC=C2)O
reactant | N1-((ethylimino)methylene)-N3,N3-dimethylpropane-1,3-diamine hydrochloride | 0.437 mmol, 84 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | methanol | CO | CH4O
solvent | DMF | 437 μL | CN(C)C=O | C3H7NO
product | tert-butyl 5-(6-(1-phenylcyclopropyl)-2-thioxo-1,2-dihydropyridin-3-ylcarbamoyl)isoindoline-2-carboxylate | C1(=CC=CC=C1)C1(CC1)C1=CC=C(C(N1)=S)NC(=O)C=1C=C2CN(CC2=CC1)C(=O)OC(C)(C)C | C28H29N3O3S
